US05612340
100 mg (0.26 mmol) of N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(N-oxido-4-pyridyl)-2-pyrimidineamine, 90 μl (0.72 mmol) or trimethylsiyl cyanide and 66 μl (0.72 mmol of N,N-dimethyl-carbamoyl chloride are dissolved in 5 ml of acetonitrile and stirred at 60° for 14 h. Concentration under reduced pressure and recrystalisation from tetrahydrofuran/diethyl ether give N-[3-(1,1,2,2-tetrafluoro-ethoxy)phenyl]-4-(2-cyano-4-pyridyl)-2-pyrimidineamine; FAB-MS: 390 (M+ +H), Rf =0.7 (hexane:ethyl acetate=1:1).

reactant | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(N-oxido-4-pyridyl)-2-pyrimidineamine | 0.26 mmol, 100 mg | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=[N+](C=C1)[O-])F | C17H12F4N4O2
reactant | cyanide | [C-]#N
reactant | N,N-dimethyl-carbamoyl chloride | 0.72 mmol | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)phenyl]-4-(2-cyano-4-pyridyl)-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C#N)F | C18H11F4N5O
